US05840764
A mixture of 3-ethoxy-4-(2-hydroxy-4-cyanophenyl)amino-3-cyclobutene-1,2-dione (0.395 g, 0.0015 mol) and tert-amylamine (4 ml, 0.034 mol) in enough CH2 Cl2 to form a solution (a small amount of dry ethanol was required) was stirred at room temperature for two days. During this time, a precipitate forms. TLC (2:1 ethyl acetate:hexane) indicates a loss of starting material. The reaction is evaporated to a solid on a rotary evaporator. The solid is taken up in ethyl acetate and extracted well with 0.25N HCl. The organic layer is washed once with distilled water, dried (Na2SO4), and evaporated to a solid. The solid is collected and washed with diethyl ether to give 3-(tert-amylamino)-4-(2-hydroxy-4-cyanophenyl)amino-3-cyclobutene-1,2-dione, 0.253 g (0.00085 mol, 55%).

reactant | 3-ethoxy-4-(2-hydroxy-4-cyanophenyl)amino-3-cyclobutene-1,2-dione | 0.0015 mol, 0.395 g | C(C)OC=1C(C(C1NC1=C(C=C(C=C1)C#N)O)=O)=O | C13H10N2O4
reactant | tert-amylamine | 0.034 mol, 4 ml | C(C)(C)(CC)N | C5H13N
reactant | Cl2 | ClCl | Cl2
reactant | ethanol | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(tert-amylamino)-4-(2-hydroxy-4-cyanophenyl)amino-3-cyclobutene-1,2-dione | C(C)(C)(CC)NC=1C(C(C1NC1=C(C=C(C=C1)C#N)O)=O)=O | C16H17N3O3
